* ADG5436 SPICE Macro-model
* Generic Desc: High Voltage Latch-up Proof, Dual SPDT Switches, TSSOP
* Developed by: mlacida / ADGT
* Revision History: 1.0 (1/2020)
* Copyright 2020 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 10.8V to 13.2V single supply and +/-13.5V to +/-16.5V dual supply.
* The model provides parametric specifications at +/-15V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
*
* Not Modeled:
* SPI Line interface and functionality is not modeled.
* The model would instead use a parallel line interface to control the switches.
* Please see Connections Section below.
*
* Parameters modeled include:
*	On Resistance
*	Ton and Toff
*	Break-Before-Make
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
*	Bandwidth
*	Charge Injection
* Connections
*      1  = IN1
*      2  = S1
*      3  = D1
*      4  = S2
*      5  = VSS
*      6  = GND
*      7  = NC
*      8  = NC
*      9  = IN2
*      10  = S3
*      11  = D2
*      12  = S4
*      13  = VDD
*      14  = NC
*      15  = NC
*      16  = NC
*
.SUBCKT ADG5436 1 2 3 4 5 6 9 10 11 12 13

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=250000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=160000 Roff=265000)
.MODEL VNE VSWITCH(Von=5 Voff=0.8 Ron=160000 Roff=265000)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)


* CROSSTALK
C12X 2 4 400E-015
C13X 2 10 400E-015
C14X 2 12 400E-015
C23X 4 10 400E-015
C24X 4 12 400E-015
C34X 10 12 400E-015

* IDD/ISS
I1 13 6 45E-006
I2 5 6 0.001E-006

* Configuration: SPDT 4:2


* ESD PROTECTION DIODES DRAIN
D11 5 3 DCLAMP
D12 3 13 DCLAMP
C15 3 6 0.171E-009

* VOLTAGE SUPPLY REQUIREMENT
S116 11h 3 11k 6 VON
S117 11l 11k 11l 6 VON
Ech119 11l 6 VALUE = { IF((V(5)<=-0.5 & V(5)>=-16.5) & (V(13)<=16.5 & V(13)>=13.5), 5 , 0.01 ) }
S118 11m 11k 11m 6 VON
Ech1110 11m 6 VALUE = { IF((V(5)>=-0.5 & (V(13)<=13.2 & V(13)>=10.8)), 5 , 0.01 ) }


** SWITCH 1 D1 **
*
* ESD PROTECTION DIODES SOURCE
D113 5 2 DCLAMP
D114 2 13 DCLAMP
*
* OFF ISOLATION
C111 2 3 3E-015
*
* CHARGE INJECTION
C112 3 11N 91E-012
C113 2 11N 91E-012
*
* CD/CS OFF AND BANDWIDTH
C114 2 6 0.171E-009
*
* ON RESISTANCE
Ech111 111a 6 VALUE = { IF ((ABS(V(2)))>(ABS(V(11g))),V(2),V(3)) }
R111 111a 6 1G
R112 a11 11h 0.001
Ech112 111b 6 VALUE = { IF (V(111a)<-13.75,5,0) }
S111 11sa1 11sb1 111b 6 VON
Ech113 11sb1 6 VALUE = { IF (V(111a)<-13.75,7.27272727272725E-02*(V(111a)--13.75)+10.7,0) }
Ech114 111c 6 VALUE = { IF ((V(111a)>=-13.75) & (V(111a)<=14),5,0) }
S112 11sa1 11sb2 111c 6 VON
Ech115 11sb2 6 VALUE = { IF ((V(111a)>=-13.75) & (V(111a)<=14),((10.7-8)/((-13.75-0.125)*(-13.75-0.125)))*(V(111a)-0.125)*(V(111a)-0.125) + 8,0) }
Ech116 111d 6 VALUE = { IF (V(111a)>14,5,0) }
S113 11sa1 11sb3 111d 6 VON
Ech117 11sb3 6 VALUE = { IF (V(111a)>14,38.12*(V(111a)-14)+10.7,0) }
RIN113	11sa1 6	1G
EOUT11 a11 11e	POLY(2) (11sa1,6) (11f,6) 0 0 0 0 0.999/1000
FCOPY11	6 11f VSENSE11 1
RSENSOR11 11f 6	1K
VSENSE11 11e 11g	0
*
* TON/ TOFF/ BBM
S114 2 11g 11n 6 VON
S115 11i 11j 11i 6 VEN
Ech118 11i 6 VALUE = { IF(V(1)>=2.0, 5 , 0.8 ) }
eV11 11n 6 11j 6 1
C116 11j 6 1e-012
*

** SWITCH 2 D1 **
*
* ESD PROTECTION DIODES SOURCE
D213 5 4 DCLAMP
D214 4 13 DCLAMP

*
* OFF ISOLATION
C211 4 3 3.75E-012
*
* CHARGE INJECTION
C212 3 21N 91E-012
C213 4 21N 91E-012
*
* CD/CS OFF AND BANDWIDTH
C214 4 6 0.171E-009
*
* ON RESISTANCE
Ech211 211a 6 VALUE = { IF ((ABS(V(4)))>(ABS(V(21g))),V(4),V(3)) }
R211 211a 6 1G
R212 a21 11h 0.001
Ech212 211b 6 VALUE = { IF (V(211a)<-13.75,5,0) }
S211 21sa1 21sb1 211b 6 VON
Ech213 21sb1 6 VALUE = { IF (V(211a)<-13.75,7.27272727272725E-02*(V(211a)--13.75)+10.7,0) }
Ech214 211c 6 VALUE = { IF ((V(211a)>=-13.75) & (V(211a)<=14),5,0) }
S212 21sa1 21sb2 211c 6 VON
Ech215 21sb2 6 VALUE = { IF ((V(211a)>=-13.75) & (V(211a)<=14),((10.7-8)/((-13.75-0.125)*(-13.75-0.125)))*(V(211a)-0.125)*(V(211a)-0.125) + 8,0) }
Ech216 211d 6 VALUE = { IF (V(211a)>14,5,0) }
S213 21sa1 21sb3 211d 6 VON
Ech217 21sb3 6 VALUE = { IF (V(211a)>14,38.12*(V(211a)-14)+10.7,0) }
RIN213	21sa1 6	1G
EOUT21 a21 21e	POLY(2) (21sa1,6) (21f,6) 0 0 0 0 0.999/1000
FCOPY21	6 21f VSENSE21 1
RSENSOR21 21f 6	1K
VSENSE21 21e 21g	0
*
* TON/ TOFF/ BBM
S214 4 21g 21n 6 VON
S215 21i 21j 21i 6 VNE
Ech218 21i 6 VALUE = { IF(V(1)<2.0, 5 , 0.8 ) }
eV21 21n 6 21j 6 1
C216 21j 6 1e-012
*

* ESD PROTECTION DIODES DRAIN
D21 5 11 DCLAMP
D22 11 13 DCLAMP
C25 11 6 0.171E-009

* VOLTAGE SUPPLY REQUIREMENT
S126 12h 11 12k 6 VON
S127 12l 12k 12l 6 VON
Ech129 12l 6 VALUE = { IF((V(5)<=-0.5 & V(5)>=-16.5) & (V(13)<=16.5 & V(13)>=13.5), 5 , 0.01 ) }
S128 12m 12k 12m 6 VON
Ech1210 12m 6 VALUE = { IF((V(5)>=-0.5 & (V(13)<=13.2 & V(13)>=10.8)), 5 , 0.01 ) }


** SWITCH 3 D2 **
*
* ESD PROTECTION DIODES SOURCE
D123 5 10 DCLAMP
D124 10 13 DCLAMP
*
* OFF ISOLATION
C121 10 11 3E-015
*
* CHARGE INJECTION
C122 11 12N 91E-012
C123 10 12N 91E-012
*
* CD/CS OFF AND BANDWIDTH
C124 10 6 0.171E-009
*
* ON RESISTANCE
Ech121 121a 6 VALUE = { IF ((ABS(V(10)))>(ABS(V(12g))),V(10),V(11)) }
R121 121a 6 1G
R122 a12 12h 0.001
Ech122 121b 6 VALUE = { IF (V(121a)<-13.75,5,0) }
S121 12sa1 12sb1 121b 6 VON
Ech123 12sb1 6 VALUE = { IF (V(121a)<-13.75,7.27272727272725E-02*(V(121a)--13.75)+10.7,0) }
Ech124 121c 6 VALUE = { IF ((V(121a)>=-13.75) & (V(121a)<=14),5,0) }
S122 12sa1 12sb2 121c 6 VON
Ech125 12sb2 6 VALUE = { IF ((V(121a)>=-13.75) & (V(121a)<=14),((10.7-8)/((-13.75-0.125)*(-13.75-0.125)))*(V(121a)-0.125)*(V(121a)-0.125) + 8,0) }
Ech126 121d 6 VALUE = { IF (V(121a)>14,5,0) }
S123 12sa1 12sb3 121d 6 VON
Ech127 12sb3 6 VALUE = { IF (V(121a)>14,38.12*(V(121a)-14)+10.7,0) }
RIN123	12sa1 6	1G
EOUT12 a12 12e	POLY(2) (12sa1,6) (12f,6) 0 0 0 0 0.999/1000
FCOPY12	6 12f VSENSE12 1
RSENSOR12 12f 6	1K
VSENSE12 12e 12g	0
*
* TON/ TOFF/ BBM
S124 10 12g 12n 6 VON
S125 12i 12j 12i 6 VEN
Ech128 12i 6 VALUE = { IF(V(9)>=2.0, 5 , 0.8 ) }
eV12 12n 6 12j 6 1
C126 12j 6 1e-012
*

** SWITCH 4 D2 **
*
* ESD PROTECTION DIODES SOURCE
D223 5 12 DCLAMP
D224 12 13 DCLAMP
*
* OFF ISOLATION
C221 12 11 3.75E-012
*
* CHARGE INJECTION
C222 11 22N 91E-012
C223 12 22N 91E-012
*
* CD/CS OFF AND BANDWIDTH
C224 12 6 0.171E-009
*
* ON RESISTANCE
Ech221 221a 6 VALUE = { IF ((ABS(V(12)))>(ABS(V(22g))),V(12),V(11)) }
R221 221a 6 1G
R222 a22 12h 0.001
Ech222 221b 6 VALUE = { IF (V(221a)<-13.75,5,0) }
S221 22sa1 22sb1 221b 6 VON
Ech223 22sb1 6 VALUE = { IF (V(221a)<-13.75,7.27272727272725E-02*(V(221a)--13.75)+10.7,0) }
Ech224 221c 6 VALUE = { IF ((V(221a)>=-13.75) & (V(221a)<=14),5,0) }
S222 22sa1 22sb2 221c 6 VON
Ech225 22sb2 6 VALUE = { IF ((V(221a)>=-13.75) & (V(221a)<=14),((10.7-8)/((-13.75-0.125)*(-13.75-0.125)))*(V(221a)-0.125)*(V(221a)-0.125) + 8,0) }
Ech226 221d 6 VALUE = { IF (V(221a)>14,5,0) }
S223 22sa1 22sb3 221d 6 VON
Ech227 22sb3 6 VALUE = { IF (V(221a)>14,38.12*(V(221a)-14)+10.7,0) }
RIN223	22sa1 6	1G
EOUT22 a22 22e	POLY(2) (22sa1,6) (22f,6) 0 0 0 0 0.999/1000
FCOPY22	6 22f VSENSE22 1
RSENSOR22 22f 6	1K
VSENSE22 22e 22g	0
*
* TON/ TOFF/ BBM
S224 12 22g 22n 6 VON
S225 22i 22j 22i 6 VNE
Ech228 22i 6 VALUE = { IF(V(9)<2.0, 5 , 0.8 ) }
eV22 22n 6 22j 6 1
C226 22j 6 1e-012
*
.ENDS ADG5436
