* ADG621 SPICE Macro-model
* Generic Desc:
* Developed by: nespirit / ANALOG
* Revision History:  (7/2018)
* Copyright 2018 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 0V to 5.5V single supply and +/-4.5V to +/-5.5V dual supply.
* The model provides parametric specifications at +/-5.5V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
* The model is operational at RESET/VL level from 0V and +/-5 +/-10%V only.
* Ensure 120us from the time of power-up or RESET before any logic command is issued.
*
* Not Modeled:
* SPI Line interface and functionality is not modeled.
* The model would instead use a parallel line interface to control the switches.
* Please see Connections Section below.
*
* Parameters modeled include:
* On Resistance
*	Ton and Toff
*	Break-Before-Make
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
*  Bandwidth
*  Charge Injection
* Connections
*      1  = S1
*      2  = D1
*      3  = IN2
*      4  = GND
*      5  = VSS
*      6  = NIC
*      7  = S2
*      8  = D2
*      9  = IN1
*      10  = VDD
*
.SUBCKT ADG621 1 2 3 4 5 6 7 8 9 10

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=1000000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=66500 Roff=110000)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)


* CROSSTALK
C12x 1 7 95e-015

* IDD/ISS
I1 10 4 0.001e-006
I2 5 4 0.001e-006

* Configuration: SPST 2:2


** SWITCH 1 **
*
* ESD PROTECTION DIODES
D11 5 2 DCLAMP
D12 2 10 DCLAMP
D13 5 1 DCLAMP
D14 1 10 DCLAMP
*
* OFF ISOLATION
C11 1 2 .85e-012
*
* CHARGE INJECTION
C12 2 140 27.5e-012
C13 1 140 27.5e-012
*
* CD/CS OFF AND BANDWIDTH
C14 1 4 10e-012
C15 2 4 10e-012
*
* ON RESISTANCE
Ech155 1555 4 VALUE = { IF ((ABS(V(184)))>(ABS(V(2))),V(184),V(2)) }
R155 1555 4 1G
R11 137 2 3.3
S111 136 141 1141 4 VON
Ech111 1141 4 VALUE = { IF (V(1555)<-3.8,5,0) }
Ech11 141 4 VALUE = { IF (V(1555)<-3.8,0.176470588235294*(V(1555)--3.8)+4.3-3.3,0) }
S112 136 146 1146 4 VON
Ech112 1146 4 VALUE = { IF ((V(1555)>=-3.8) & (V(1555)<=4.3),5,0) }
Ech12 146 4 VALUE = { IF ((V(1555)>=-3.8) & (V(1555)<=4.3),((4.3-3.3)/((-3.8-0.764417447859962)*(-3.8-0.764417447859962)))*(V(1555)-0.764417447859962)*(V(1555)-0.764417447859962),0) }
S113 136 144 1144 4 VON
Ech113 1144 4 VALUE = { IF (V(1555)>4.3,5,0) }
Ech13 144 4 VALUE = { IF (V(1555)>4.3,-0.166666666666666*(V(1555)-4.3)+3.9-3.3,0) }
RIN1	136 4	1G
EOUT1 137 181	POLY(2) (136,4) (180,4) 0 0 0 0 0.999/1000
FCOPY1	4 180 VSENSE1 1
RSENSOR1 180 4	1K
VSENSE1 181 184	0
*
* TON/ TOFF/ BBM
S11 182 184 140 4 VON
S12 143 138 143 4 VEN
Ech14 143 4 VALUE = { IF(V(9)>=2.4, 5 , 0.8 ) }
eV1 140 4 138 4 1
C16 138 4 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S13 1 182 185 4 VON
S14 142 185 142 4 VON
Ech15 142 4 VALUE = { IF((V(5)<=-0.5 & V(5)>=-5.5) & (V(10)<=5.5 & V(10)>=4.5), 5 , 0.01 ) }
S15 139 185 139 4 VON
Ech16 139 4 VALUE = { IF((V(5)>=-0.5 & (V(10)<=5.5 & V(10)>=0)), 5 , 0.01 ) }


** SWITCH 2 **
*
* ESD PROTECTION DIODES
D21 5 8 DCLAMP
D22 8 10 DCLAMP
D23 5 7 DCLAMP
D24 7 10 DCLAMP
*
* OFF ISOLATION
C21 7 8 1e-012
*
* CHARGE INJECTION
C22 8 240 1e-011
C23 7 240 1e-011
*
* CD/CS OFF AND BANDWIDTH
C24 7 4 20e-012
C25 8 4 20e-012
*
* ON RESISTANCE
Ech255 2555 4 VALUE = { IF ((ABS(V(284)))>(ABS(V(8))),V(284),V(8)) }
R255 2555 4 1G
R21 237 8 3.3
S221 236 241 2241 4 VON
Ech221 2241 4 VALUE = { IF (V(2555)<-3.8,5,0) }
Ech21 241 4 VALUE = { IF (V(2555)<-3.8,0.176470588235294*(V(2555)--3.8)+4.3-3.3,0) }
S222 236 246 2246 4 VON
Ech222 2246 4 VALUE = { IF ((V(2555)>=-3.8) & (V(2555)<=4.3),5,0) }
Ech22 246 4 VALUE = { IF ((V(2555)>=-3.8) & (V(2555)<=4.3),((4.3-3.3)/((-3.8-0.764417447859962)*(-3.8-0.764417447859962)))*(V(2555)-0.764417447859962)*(V(2555)-0.764417447859962),0) }
S223 236 244 2244 4 VON
Ech223 2244 4 VALUE = { IF (V(2555)>4.3,5,0) }
Ech23 244 4 VALUE = { IF (V(2555)>4.3,-0.166666666666666*(V(2555)-4.3)+3.9-3.3,0) }
RIN2	236 4	1G
EOUT2 237 281	POLY(2) (236,4) (280,4) 0 0 0 0 0.999/1000
FCOPY2	4 280 VSENSE2 1
RSENSOR2 280 4	1K
VSENSE2 281 284	0
*
* TON/ TOFF/ BBM
S21 282 284 240 4 VON
S22 243 238 243 4 VEN
Ech24 243 4 VALUE = { IF(V(3)>=2.4, 5 , 0.8 ) }
eV2 240 4 238 4 1
C26 238 4 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S23 7 282 285 4 VON
S24 242 285 242 4 VON
Ech25 242 4 VALUE = { IF((V(5)<=-0.5 & V(5)>=-5.5) & (V(10)<=5.5 & V(10)>=4.5), 5 , 0.01 ) }
S25 239 285 239 4 VON
Ech26 239 4 VALUE = { IF((V(5)>=-0.5 & (V(10)<=5.5 & V(10)>=0)), 5 , 0.01 ) }

.ENDS ADG621
